US08067407B2
Step a): 1-(6-Chloropyrimidin-4-yl)azetidin-3-ol
7.3 g (48.7 mmol) of 4,6-dichloropyrimidine are suspended in 140 ml of water, and 47 ml 1 N aqueous sodium hydroxide solution are added. 5.3 g (48.7 mmol) of 3-hydroxyazetidine are added, and the reaction mixture is stirred at 90° C. for 3 d. After cooling to RT, the reaction mixture is concentrated under reduced pressure and reacted further without further purification.

reactant | 4,6-dichloropyrimidine | 48.7 mmol, 7.3 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | sodium hydroxide | 1 N, 47 ml | [OH-].[Na+]
reactant | 3-hydroxyazetidine | 48.7 mmol, 5.3 g | OC1CNC1 | C3H7NO
solvent | water | 140 ml | O | H2O
product | 1-(6-Chloropyrimidin-4-yl)azetidin-3-ol | ClC1=CC(=NC=N1)N1CC(C1)O | C7H8ClN3O
